US07671043B2
5B. 2-Chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine
A solution of 4-isobutylbenzoic acid (19.5 g, 110 mmol), PyBOP (57.6 g, 111 mmol), diisopropylethyl amine (19 mL, 111 mmol) and dichloromethane (1.0 L) was stirred at room temperature for 15 minutes and 6-chloro-N′-hydroxypyridine-3-carboximidamide (19.0 g, 111 mmol) was added. The reaction mixture was stirred at room temperature for 12 hours and filtered. The white solid (35.0 g) was treated with TBAF (1M in THF, 159 mL, 158 mmol) and stirred at room temperature for 12 hours. The reaction mixture was concentrated in vacuo, taken up in H2O (1.0 L) and filtered to provide the title compound (29.6 g, 87% yield) as a white solid.

reactant | 4-isobutylbenzoic acid | 110 mmol, 19.5 g | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | PyBOP | 111 mmol, 57.6 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 111 mmol, 19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-N′-hydroxypyridine-3-carboximidamide | 111 mmol, 19.0 g | ClC1=CC=C(C=N1)C(N)=NO | C6H6ClN3O
reactant | TBAF | 158 mmol, 1M, 159 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | dichloromethane | 1.0 L | ClCCl | CH2Cl2
product | 2-Chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine | 29.6 g, 87% yield | ClC1=NC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C17H16ClN3O
